2102-06-16 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --given 2U FFP, INR 2.6 -> 1.8. Given 2U FFP for INR 1.9 in AM
   --on auto-CPAP at night, failed with desats to 70s, shovel mask
   replaced with sats in high 80s
   --restrained at night due to delirium
   --Had an acute episode of respiratory distress in the AM. ABG showed
   pH=7.37, PCO2=52, O2=74.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-6-13**] 02:53 PM
   Ceftriaxone - [**2102-6-15**] 12:10 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2102-6-15**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-16**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 94 (71 - 110) bpm
   BP: 161/75(93) {113/48(64) - 192/137(148)} mmHg
   RR: 28 (17 - 30) insp/min
   SpO2: 90%
   Heart rhythm: AV Paced
   Wgt (current): 56.5 kg (admission): 57.8 kg
                  Total In:
                                                                  1,296 mL
                                                                     50 mL
   PO:
                                                                    490 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
                                                                    606 mL
   Total out:
                                                                    853 mL
                                                                    395 mL
   Urine:
                                                                    853 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    443 mL
                                                                   -345 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: ///27/
   Physical Examination
   General: Patient found using accessory muscles breathe.
   Neck: supple, JVP elevated, no LAD
   Lungs: labored respiratory breathing. Wheezing throughout.
   CV: Irregular rate. Normal rhythm., normal S2, no m/r/g
   Abdomen: soft, NT/ND, bowel sounds present, no rebound or guarding
   Ext: Warm, no clubbing or edema
   Neuro: weak gag, withdraws to sternal rub.
   Labs / Radiology
   177 K/uL
   12.2 g/dL
   156 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.3 mEq/L
   20 mg/dL
   104 mEq/L
   142 mEq/L
   37.5 %
   9.5 K/uL
        [image002.jpg]
                             [**2102-6-13**]  01:48 PM
                             [**2102-6-13**]  06:18 PM
                             [**2102-6-14**]  01:13 AM
                             [**2102-6-14**]  03:36 AM
                             [**2102-6-14**]  04:10 PM
                             [**2102-6-14**]  08:09 PM
                             [**2102-6-15**]  04:28 AM
                             [**2102-6-15**]  05:28 AM
                             [**2102-6-16**]  04:19 AM
   WBC
   5.6
   6.1
   9.5
   Hct
   36.9
   35.1
   37.5
   Plt
   163
   146
   177
   Cr
   1.3
   1.4
   1.4
   1.3
   TropT
   0.01
   TCO2
   33
   33
   32
   33
   33
   Glucose
   91
   130
   137
   156
   Other labs: PT / PTT / INR:20.2/29.4/1.9, CK / CKMB /
   Troponin-T:22/4/0.01, Differential-Neuts:87.0 %, Lymph:6.2 %, Mono:5.6
   %, Eos:1.0 %, Lactic Acid:1.8 mmol/L, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.6 mg/dL
   Cultures:
   --blood: no growth to date
   --urine: Klebsiella
   CXR: increased pleural effusion bilaterally. Increased perihilar edema
   and congestion bilaterally. No new infiltrates visualized.
   Assessment and Plan
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   [**Age over 90 **] y/o F with PMHx of Afib, CAD s/p MI and PVD who presents with
   altered mental status, now with hypoxia.
   .
   Acute respiratory distress: Patient had an episode of acute respiratory
   distress. With some support on BiPap, patient breathing more
   comfortably. ABG while in distress showed no increase in pCO2, just her
   baseline chronic respiratory acidosis. CXR showed increased pulmonary
   edema. EKG showed increase in rate of atrial fibrillation. Lactate
   increasing. Acute distress likely due to pulmonary edema secondary to
   diastolic dysfunction. Other possibe etiologies include TRALI (too late
   of onset), pneumothroax (r/o on CXR), aspiration PNA or pneumonitis, or
   mucus plugging.
   --Will give a dose of Lasix IV.
   --Monitor respiratory status and give patient Bipap
   --continue aspiration precautions
   --Will check ABG.
   #Hypoxia: The patient is likely hyoxemic with an acute on chronic resp.
   acidosis due to her pleural effusion. The desaturations seems
   positional, so likely due to the pleural effusions. The patient also
   has underlying pulmonary hypertension, possibly caused by chronic
   hypoxia due to pleural effusion. WBC WNL and afebrile, so infection
   with a parapneumonic effusion less likely. Also possibly a PE, but CTA
   with contrast r/o any PE.
   - consider thoracentesis for therapy and diagnostic purposes. Since INR
   elevated, will give FFP and vitamin K before procedure.
   - Obtain Echo records from [**Hospital1 1031**] to determine the chronicity of pulmonary
   hypertension.
   - culture if spikes and broaden to cover HAP
   - strict aspiration precautions
   #  Altered Mental Status: The patient has a postive U/A and urine
   culture growing Klebsiella. Infection is the likely etiology of her AMS
   change. The patient has waxing/[**Doctor Last Name 533**] mental status changes, likely due
   to UTI. Initially, sudden onset also concerning for CVA, given her past
   history. Her CT of the head could not r/o any acute infarcts. The
   patient has no seizure history, so unlikely a seizure. A CTA r/o PE.
   Hypercarbia also possible given desats, but ABG has stable acute on
   chronic respiratory failure.  Etiology unclear but history of
   hyperacute change in mental status was initially concerning for seizure
   or acute stroke. Initially, the patient had pinpoint pupils, however,
   narcane for possible opiod toxicity had no effect. TSH, RPR, Vit B12,
   Folate WNL.
   - f/u Neuro consult
   - continue to treat UTI
   - f/u blood cx
   - avoid any sedating meds
   - Will start zosyn (start [**2102-6-16**]) and Vanco ([**2102-6-16**])
   .
   # UTI: Pt. grew Klebsiella in urine. Has sensitivities
   - Change ceftriaxone to cipro
   - Cipro (started [**2102-6-15**]) for a 10 day course.
   .
   Diastolic HF: EF 65-70% with no LVH. Has had episodes of flash
   pulmonary edema.
   - Manage HTN
   - Lasix PRN
   - Obtain old echo records
   # AFib: Pt with history of afib though currently paced.  Difficult to
   interpret EKG changes given V-paced rhythm.  Cardiac enzymes negative
   so far.
   - Continue IV metoprolol
   - holding on anticoagulation for now given her elevated INR
   # Increased INR: Likely on Coumadin for A.fib
   - Would like to get up to date med list
   - Follow INR. Still elevated. If decide to do thoracentesis, will give
   FFP before.
   Pulm HTN: New onset pulm HTN since [**Month (only) **]? In [**Hospital1 1031**] D/C summary, there
   was no mention of Pulm HTN. It
s possibly due to chronic hypoxia [**12-19**]
   large pleural effusion on right. Other etiologies like idiopathic (too
   old for onset), PE (ruled out with CTA), and HIV unlikely.
   - Continue O2 requirement
   - Will not pursue medical therapy at this time.
   # Chronic renal failure: Cr: 1.4. Low UOP.
   -- Continue to trend creatinine
   -- start home furosemide. Encourage PO intake
   ICU Care
   Nutrition: pureed foods. Aspiration precautions
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2102-6-13**] 01:09 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: Famotidine IV
   VAP:
   Comments:
   Communication:  Comments: Need to speak with patient via russian
   interpreter
   Grand Niece & HCP-- [**Name (NI) 9101**] [**Telephone/Fax (1) 9102**] cell [**Telephone/Fax (1) 9103**]
   [**Female First Name (un) 9104**] Daughter & 2nd HCP-- [**Telephone/Fax (1) 9105**]
   NH-->[**Telephone/Fax (1) 4918**]
   Code status: Full code, confirmed
   Disposition: pending improvement in hypoxia.

2102-06-17 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2102-6-16**] 09:00 AM
 ARTERIAL LINE - START [**2102-6-16**] 11:59 AM
 NON-INVASIVE VENTILATION - STOP [**2102-6-16**] 12:08 PM
 NON-INVASIVE VENTILATION - START [**2102-6-16**] 03:31 PM
   --After desaturations and falling pO2 on ABG, placed on BiPap and
   tolerating it well. ABG improved so moved from 100% FiO2 to 60%.
   --Decided to hold on thoracentesis given high INR and likelihood that
   tap would not be entirely therapeutic.
   --Hypertensive so increased Metoprolol Tartrate 10 mg IV Q4H
   --Started Lasix 5mg gtt for UOP>75
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-6-15**] 12:10 PM
   Vancomycin - [**2102-6-16**] 10:00 AM
   Ciprofloxacin - [**2102-6-16**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-6-17**] 02:09 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2102-6-16**] 12:46 PM
   Famotidine (Pepcid) - [**2102-6-16**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-6-16**] 11:34 PM
   Metoprolol - [**2102-6-17**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-17**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.9
   HR: 71 (71 - 112) bpm
   BP: 163/74(108) {120/54(79) - 189/97(134)} mmHg
   RR: 19 (15 - 39) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Wgt (current): 56.5 kg (admission): 57.8 kg
    UOP~100 cc/hr after Lasix drip
   Total In:
                                                                    807 mL
                                                                    128 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                    757 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    710 mL
   Urine:
                                                                  1,665 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -858 mL
                                                                   -582 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 411 (344 - 716) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.42/49/99.[**Numeric Identifier 508**]/29/5
   Ve: 8.6 L/min
   PaO2 / FiO2: 167
   Physical Examination
   General: CPAP in place. Patient in restraints, speaking and making hand
   gestures.
   Neck: supple, JVP not elevated, no LAD
   Lungs: Poor air entry. Bronchial breath sounds over right posterior
   field.
   CV: Irregular rate. Normal rhythm., normal S2, no m/r/g
   Abdomen: soft, NT/ND, bowel sounds present, no rebound or guarding
   Ext: Warm, no clubbing or edema
   Neuro: weak gag, withdraws to sternal rub.
   Labs / Radiology
   138 K/uL
   11.6 g/dL
   126 mg/dL
   1.4 mg/dL
   29 mEq/L
   3.6 mEq/L
   25 mg/dL
   102 mEq/L
   143 mEq/L
   35.4 %
   9.2 K/uL
        [image002.jpg]
                             [**2102-6-16**]  11:57 AM
                             [**2102-6-16**]  01:22 PM
                             [**2102-6-16**]  03:07 PM
                             [**2102-6-16**]  04:10 PM
                             [**2102-6-16**]  04:25 PM
                             [**2102-6-16**]  05:57 PM
                             [**2102-6-16**]  11:40 PM
                             [**2102-6-17**]  12:06 AM
                             [**2102-6-17**]  02:44 AM
                             [**2102-6-17**]  03:54 AM
   WBC
   9.2
   Hct
   37
   35.4
   Plt
   138
   Cr
   1.4
   TropT
   0.03
   0.03
   TCO2
   28
   27
   29
   30
   32
   34
   33
   Glucose
   126
   Other labs: PT / PTT / INR:18.4/47.2/1.7, CK / CKMB /
   Troponin-T:53/4/0.03, Differential-Neuts:86.4 %, Lymph:6.9 %, Mono:3.6
   %, Eos:3.0 %, Lactic Acid:2.4 mmol/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.2 mg/dL
   Pro-BNP: [**Numeric Identifier 9171**]
   Culture data:
   Urine ([**6-14**]): klebsiella
   Blood ([**6-14**], [**6-16**]): no growth to date
   Urine ([**6-16**]): no growth to date
   CXR: Pacemaker in place on right. Decreased pleural effusion on right.
   Still has congestion bilaterally.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   [**Age over 90 **] y/o F with PMHx of Afib, CAD s/p MI and PVD who presents with
   altered mental status, now with hypoxia.
   .
   Hypoxia: Patient not in respiratory distress while on BiPap. Patient
   had an episode of acute respiratory distress on [**6-16**]. With some support
   on BiPap, patient breathing more comfortably. ABG while in distress
   showed no increase in pCO2, just her baseline chronic respiratory
   acidosis. CXR showed increased pulmonary edema. EKG showed increase in
   rate of atrial fibrillation. BNP increased.  Lactate increased during
   acute episode. Acute distress likely due to pulmonary edema secondary
   to diastolic dysfunction. Other possibe etiologies include TRALI (too
   late of onset), pneumothroax (r/o on CXR), aspiration PNA or
   pneumonitis, or mucus plugging. After the acute event, started to cover
   for HAP as well as aspiration PNA. Increased lactate correlated to
   increased respiratory distress and respiratory muscle fatigue. The
   patient
s baseline hypoxia which is not entirely responsive to oxygen
   might be due to cardiac (R
L) shunting, atelectasis of right lobe due
   to pleural effusion, or intrapulmonary shunting.
   --continue lasix gtt with goal of -1L per day.
   --Continue Vanco and Zosyn (both started [**6-16**])
   --continue aspiration precautions
   --Will check ABG and see if patient can wean from BiPap
   --Continue Metoprolol 15 mg q4hr. Manage HTN to decrease any diastolic
   failure. Will give Hydralazine x 1. On nitrates, metoprolol and CCB at
   home. Hesitant to give nitrate because patient is preload dependent.
   #Right pleural effusion: The patient is likely hyoxemic with an acute
   on chronic resp. acidosis due to her pleural effusion. The
   desaturations seems positional, so likely due to the pleural effusions.
   The patient also has underlying pulmonary hypertension, possibly caused
   by chronic hypoxia due to pleural effusion. WBC WNL and afebrile, so
   infection with a parapneumonic effusion less likely. Also possibly a
   PE, but CTA with contrast r/o any PE.
   - consider thoracentesis for therapy and diagnostic purposes.
   - Obtain Echo records from [**Hospital1 1031**] to determine the chronicity of pulmonary
   hypertension.
   - strict aspiration precautions
   #  Altered Mental Status: Patient seems to be at her baseline, as per
   HCP. The patient has a postive U/A and urine culture growing
   Klebsiella. Infection is the likely etiology of her AMS change. The
   patient has waxing/[**Doctor Last Name 533**] mental status changes, likely due to UTI.
   Initially, sudden onset also concerning for CVA, given her past
   history. Her CT of the head could not r/o any acute infarcts. The
   patient has no seizure history, so unlikely a seizure. A CTA r/o PE.
   Hypercarbia also possible given desats, but ABG has stable acute on
   chronic respiratory failure.  Etiology unclear but history of
   hyperacute change in mental status was initially concerning for seizure
   or acute stroke. Initially, the patient had pinpoint pupils, however,
   narcane for possible opiod toxicity had no effect. TSH, RPR, Vit B12,
   Folate WNL.
   - continue to treat UTI
   - f/u blood cx
   - avoid any sedating meds
   - Continue  zosyn (start [**2102-6-16**]) and Vanco ([**2102-6-16**])
   .
   # UTI: Pt. grew Klebsiella in urine. Has sensitivities
   - Will D/C cipro since zosyn covers. Abx course started on [**6-14**] for a
   total of 10 days.
   - f/u repeat urine culture.
   .
   Diastolic HF: EF 65-70% with no LVH. Has had episodes of flash
   pulmonary edema.
   - Manage HTN.
   - Lasix PRN
   - Obtain old echo records
   # AFib: Pt with history of afib though currently paced.  Difficult to
   interpret EKG changes given V-paced rhythm.  Cardiac enzymes negative
   so far.
   - Continue IV metoprolol
   - holding on anticoagulation for now given her elevated INR.
   Pulm HTN: New onset pulm HTN since [**Month (only) **]? In [**Hospital1 1031**] D/C summary, there
   was no mention of Pulm HTN. It
s possibly due to chronic hypoxia [**12-19**]
   large pleural effusion on right. Other etiologies like idiopathic (too
   old for onset), PE (ruled out with CTA), and HIV unlikely.
   - Continue O2 requirement
   - Will not pursue medical therapy at this time.
   # Increased INR: Likely on Coumadin for A.fib
   - Would like to get up to date med list
   # Chronic renal failure: Cr: 1.4. Low UOP.
   -- Continue to trend creatinine
   -- Lasix gtt
   -- renally dose medications.
   ICU Care
   Nutrition: NPO since aspiration risk. Replete electrolytes as needed.
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2102-6-13**] 01:09 PM
   Arterial Line - [**2102-6-16**] 11:59 AM
   20 Gauge - [**2102-6-16**] 12:00 PM
   Prophylaxis:
   DVT: boots, Heparin SC
   Stress ulcer: Famotidine IV
   VAP:
   Comments:
   Communication:  Comments: Need to speak with patient via russian
   interpreter
   Grand Niece & HCP-- [**Name (NI) 9101**] [**Telephone/Fax (1) 9102**] cell [**Telephone/Fax (1) 9103**]
   [**Female First Name (un) 9104**] Daughter & 2nd HCP-- [**Telephone/Fax (1) 9105**]
   NH-->[**Telephone/Fax (1) 4918**]
   Code status: Full code, confirmed
   Disposition: pending improvement in hypoxia.
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portion
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 8880**]
s note above and
   I agree with his findings and plan of care.  The patient is in the MICU
   primarily for hypoxemia in the setting of changes in mentation likely
   due to Klebsiella UTI.  The hypoxemia is likely due to biventricular
   CHF with R>L pleural effusions and RLL atelectasis, and also due to
   hypercarbia.  An additional shunt through a PFO can
t be excluded,
   given her pulm htn, which is in part from left sided diastolic
   dysfunction.  She has improved with lasix drip with improved
   oxygenation and less effusions on CXR and lower 02 requirement.
   The plan today will be to continue diuresis aiming for 1L negative, and
   to add hydralazine IV for better systemic BP control.  I personally
   [**Male First Name (un) **]
t think a thoracentesis is necessary given that CHF is so likely
   the cause. If she doesn
t continue to improve I would consider low dose
   sildenafil for Rx of pulm htn and afterload reduction on RV.  Despite
   her age and infirmity, she wishes to be full code.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2102-6-17**] 02:09 PM ------

2102-06-18 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2102-6-18**] 03:24 AM
   .
   --UOP (-) ~2L
   --on off BiPAP at 3am because of bridge of nose skin breakdown,
   tolerated high flow well.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-6-15**] 12:10 PM
   Vancomycin - [**2102-6-16**] 10:00 AM
   Ciprofloxacin - [**2102-6-16**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-6-18**] 02:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2102-6-17**] 06:00 PM
   Metoprolol - [**2102-6-17**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-6-18**] 12:00 AM
   Hydralazine - [**2102-6-18**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-18**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 73 (71 - 89) bpm
   BP: 134/59(87) {118/53(78) - 189/87(128)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Wgt (current): 52.2 kg (admission): 57.8 kg
             Total In:
                                                                    440 mL
                                                                    188 mL
   PO:
             TF:
   IVF:
                                                                    440 mL
                                                                    188 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                    285 mL
   Urine:
                                                                  2,210 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,771 mL
                                                                    -97 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 517 (408 - 577) mL
   PS : 8 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 80%
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.46/43/123/28/6
   Ve: 8.6 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General: face mask on. Patient in restraints, speaking and making hand
   gestures.
   Neck: supple, JVP not elevated, no LAD
   Lungs: Poor air entry. Bronchial breath sounds over right posterior
   field.
   CV: Irregular rate. Normal rhythm., normal S2, no m/r/g
   Abdomen: soft, NT/ND, bowel sounds present, no rebound or guarding
   Ext: Warm, no clubbing or edema
   Neuro: weak gag, withdraws to sternal rub.
   Labs / Radiology
   161 K/uL
   12.6 g/dL
   142 mg/dL
   1.5 mg/dL
   28 mEq/L
   3.1 mEq/L
   35 mg/dL
   102 mEq/L
   144 mEq/L
   38.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2102-6-16**]  04:10 PM
                             [**2102-6-16**]  04:25 PM
                             [**2102-6-16**]  05:57 PM
                             [**2102-6-16**]  11:40 PM
                             [**2102-6-17**]  12:06 AM
                             [**2102-6-17**]  02:44 AM
                             [**2102-6-17**]  03:54 AM
                             [**2102-6-17**]  12:24 PM
                             [**2102-6-18**]  03:57 AM
                             [**2102-6-18**]  04:10 AM
   WBC
   9.2
   10.5
   Hct
   37
   35.4
   38.5
   Plt
   138
   161
   Cr
   1.4
   1.5
   TropT
   0.03
   0.03
   TCO2
   30
   32
   34
   33
   36
   32
   Glucose
   126
   142
   Other labs: PT / PTT / INR:14.3/26.8/1.2, CK / CKMB /
   Troponin-T:53/4/0.03, Differential-Neuts:87.5 %, Lymph:6.3 %, Mono:3.9
   %, Eos:2.0 %, Lactic Acid:2.0 mmol/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.6 mg/dL
   .
   [**6-16**]
   UCx
 neg
   BCx x2
 pending
   .
   CXR: no interval change from yesterday
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   .
   [**Age over 90 **] y/o F with PMHx of Afib, CAD s/p MI and PVD who presents with
   altered mental status, now with hypoxia.
   .
   # Hypoxia: Patient not in respiratory distress while on BiPap. Patient
   had an episode of acute respiratory distress on [**6-16**]. With some support
   on BiPap, patient breathing more comfortably. ABG while in distress
   showed no increase in pCO2, just her baseline chronic respiratory
   acidosis. CXR showed increased pulmonary edema. EKG showed increase in
   rate of atrial fibrillation. BNP increased.  Lactate increased during
   acute episode. Acute distress likely due to pulmonary edema secondary
   to diastolic dysfunction. Other possibe etiologies include TRALI (too
   late of onset), pneumothroax (r/o on CXR), aspiration PNA or
   pneumonitis, or mucus plugging. After the acute event, started to cover
   for HAP as well as aspiration PNA. Increased lactate correlated to
   increased respiratory distress and respiratory muscle fatigue. The
   patient
s baseline hypoxia which is not entirely responsive to oxygen
   might be due to cardiac (R
L) shunting, atelectasis of right lobe due
   to pleural effusion, or intrapulmonary shunting.
   --continue lasix gtt with goal of -500cc per day.
   --Will d/c vanc/zosyn today since no e/o PNA
   --continue aspiration precautions
   --Will check ABG and see if patient can withstand facemask during day
   and BIPAP overnight
   --Continue IV Metoprolol 15 mg q4hr. On nitrates, metoprolol and CCB at
   home.
   --[**Month (only) **] IV hydral 10q6 to 5q6
   .
   #Right pleural effusion: The patient is likely hyoxemic with an acute
   on chronic resp. acidosis due to her pleural effusion. The
   desaturations seems positional, so likely due to the pleural effusions.
   The patient also has underlying pulmonary hypertension, possibly caused
   by chronic hypoxia due to pleural effusion. WBC WNL and afebrile, so
   infection with a parapneumonic effusion less likely. PE r/o with CTA.
   Also pt
s INR has recently been >1.5 so no [**Female First Name (un) 217**] due to risk for
   hemothorax.
   - consider thoracentesis for therapy and diagnostic purposes.
   - Obtain Echo records from [**Hospital1 1031**] to determine the chronicity of pulmonary
   hypertension.
   - strict aspiration precautions
   .
   #  Altered Mental Status: Patient seems to be at her baseline (AOx2),
   as per HCP. The patient has a postive U/A and urine culture growing
   Klebsiella. Infection is the likely etiology of her AMS change. The
   patient has waxing/[**Doctor Last Name 533**] mental status changes, likely due to UTI.
   Initially, sudden onset also concerning for CVA, given her past
   history. Her CT of the head could not r/o any acute infarcts. The
   patient has no seizure history, so unlikely a seizure. A CTA r/o PE.
   Hypercarbia also possible given desats, but ABG has stable acute on
   chronic respiratory failure.  Etiology unclear but history of
   hyperacute change in mental status was initially concerning for seizure
   or acute stroke. Initially, the patient had pinpoint pupils, however,
   narcane for possible opiod toxicity had no effect. TSH, RPR, Vit B12,
   Folate WNL.
   - continue to treat UTI
   - f/u blood cx
   - avoid any sedating meds
   - D/C vanc/zosyn today since no e/o PNA, will resume cipro for UTI
   .
   # UTI: Pt. grew Klebsiella in urine. Has sensitivities. Repeat UCx neg.
   - D/C vanc/zosyn today since no e/o PNA, will resume cipro. Abx course
   started on [**6-14**] for a total of 10 days.
   .
   #Diastolic HF: EF 65-70% with no LVH. Has had episodes of flash
   pulmonary edema. On nitrates, metoprolol and CCB at home.
   - Manage HTN.
   - Lasix gtt
   - Obtain old echo records
   .
   # AFib: Pt with history of afib though currently paced.  Difficult to
   interpret EKG changes given V-paced rhythm.  Cardiac enzymes negative
   so far.
   - Continue IV metoprolol
   - holding on anticoagulation for now given her recently elevated INR
   and poss need for [**Female First Name (un) 217**].
   .
   #Pulm HTN: New onset pulm HTN since [**Month (only) **]? In [**Hospital1 1031**] D/C summary, there
   was no mention of Pulm HTN. It
s possibly due to chronic hypoxia [**12-19**]
   large pleural effusion on right. Other etiologies like idiopathic (too
   old for onset), PE (ruled out with CTA), and HIV unlikely.
   - Continue O2 requirement
   - Will not pursue medical therapy at this time.
   # Increased INR: Likely on Coumadin for A.fib
   - Would like to get up to date med list
   # Chronic renal failure: Cr: 1.4. Low UOP.
   -- Continue to trend creatinine
   -- Lasix gtt
   -- renally dose medications.
   ICU Care
   Nutrition: will advance to full liqs today. Replete electrolytes as
   needed.
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2102-6-13**] 01:09 PM
   Arterial Line - [**2102-6-16**] 11:59 AM
   20 Gauge - [**2102-6-16**] 12:00 PM
   Prophylaxis:
   DVT: boots, Heparin SC
   Stress ulcer: Famotidine IV
   VAP:
   Comments:
   Communication:  Comments: Need to speak with patient via russian
   interpreter
   Grand Niece & HCP-- [**Name (NI) 9101**] [**Telephone/Fax (1) 9102**] cell [**Telephone/Fax (1) 9103**]
   [**Female First Name (un) 9104**] Daughter & 2nd HCP-- [**Telephone/Fax (1) 9105**]
   NH-->[**Telephone/Fax (1) 4918**]
   Code status: Full code, confirmed, will rediscuss goals of care and DNR
   today with family
   Disposition: pending improvement in hypoxia.
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided. I have reviewed Dr [**Last Name (STitle) 347**]
s note and agree
   with his findings and plan of care.
   The patient continues to diurese on lasix drip and while she is holding
   her own froma resp status (7.47/44/60 on 60% mask) there is no
   appreciable change in her large right pleural effusion on CXR or exam.
   While I still believe her effusion to be due to biventricular CHF, it
   seems increasingly reasonable to do thoracentesis to improve work of
   breathing and RLL atelectasis, while also ruling out alternative
   diagnoses.  We
ll aim to do this tomorrow, and meanwhile continue lasix
   to achieve I/O neg 500cc today.
   Without evidence of pneumonia (though one can
t see RLL) I concur with
   d/c of vanco and zosyn and continuing cipro.
   HTN is under better control today with continued diuresis and so we
   decrease Hydralazine dose.
   Her ultimate success and survival will depend in part on her strength
   and nutrition.  We
ll advance diet to full liquids during the day, with
   the expectation that she
ll use BIPAP at night during sleep.
   We hope to have family mtg today. It seems to me that DNR status is
   reasonable in the event of CPA. This would still allow for intubation
   should the patient really desire this.   However right now the pt is a
   full code.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   (35 min spent in the care of this fragile critically ill pt)
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2102-6-18**] 05:00 PM ------

2102-06-19 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --pO2 improved from 50s to 99 once put on high flow mask
   --changed to PO metoprolol, d/c'd hydral (pt was not getting doses due
   to SBP<110)
   --nebs changed from standing to prn
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-6-16**] 10:00 AM
   Ciprofloxacin - [**2102-6-16**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-6-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2102-6-18**] 12:00 PM
   Famotidine (Pepcid) - [**2102-6-18**] 04:00 PM
   Metoprolol - [**2102-6-18**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-6-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-19**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.4
   HR: 71 (71 - 91) bpm
   BP: 147/63(96) {118/50(4) - 170/90(116)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Wgt (current): 52.5 kg (admission): 57.8 kg
                  Total In:
                                                                    993 mL
                                                                    100 mL
   PO:
                  100 mL
   TF:
   IVF:
                                                                    993 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    145 mL
   Urine:
                                                                    935 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     58 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.47/43/99.[**Numeric Identifier 126**]/31/6
   PaO2 / FiO2: 165
   Physical Examination
   General: face mask on. Patient in restraints, speaking and making hand
   gestures.
   Neck: supple, JVP not elevated, no LAD
   Lungs: Poor air entry. Bronchial breath sounds over right posterior
   field.
   CV: Irregular rate. Normal rhythm., normal S2, no m/r/g
   Abdomen: soft, NT/ND, bowel sounds present, no rebound or guarding
   Ext: Warm, no clubbing or edema
   Neuro: weak gag, withdraws to sternal rub.
   Labs / Radiology
   183 K/uL
   11.9 g/dL
   139 mg/dL
   1.8 mg/dL
   31 mEq/L
   3.2 mEq/L
   46 mg/dL
   104 mEq/L
   148 mEq/L
   37.2 %
   9.1 K/uL
        [image002.jpg]
                             [**2102-6-17**]  03:54 AM
                             [**2102-6-17**]  12:24 PM
                             [**2102-6-18**]  03:57 AM
                             [**2102-6-18**]  04:10 AM
                             [**2102-6-18**]  09:12 AM
                             [**2102-6-18**]  04:02 PM
                             [**2102-6-18**]  08:03 PM
                             [**2102-6-18**]  09:10 PM
                             [**2102-6-18**]  11:32 PM
                             [**2102-6-19**]  04:24 AM
   WBC
   10.5
   9.1
   Hct
   38.5
   37.2
   Plt
   161
   183
   Cr
   1.5
   1.6
   1.8
   TCO2
   33
   36
   32
   33
   33
   34
   32
   Glucose
   142
   190
   139
   Other labs: PT / PTT / INR:14.3/26.8/1.2, CK / CKMB /
   Troponin-T:53/4/0.03, Differential-Neuts:87.5 %, Lymph:6.3 %, Mono:3.9
   %, Eos:2.0 %, Lactic Acid:1.8 mmol/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.3 mg/dL
   BCx
 pending
   CXR
 fluid in right minor fissure and hazy opacity in right mid lung
   unchanged
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Ms. [**Known lastname 9191**] is a [**Age over 90 **] yo deaf, Russian speaking female with a history
   of A. fib (on coumadin), multiple CVAs, diastolic heart failure, and
   pulmonary HTN presenting with AMS. She was found to have a Klebsiella
   UTI and her mental status improved with treatment. While in the ICU,
   she has had frequent desats, likely due to her right sided pleural
   effusion. She had an episode of respiratory distress on [**6-16**], most
   likely due to flash pulmonary edema [**12-19**] her diastolic heart failure.
   After that episode, a Lasix gtt was initiated to diurese her. Poor
   oxygenation continues to be a problem and currently unsure if her
   right>left sided pleural effusion will be tapped for
   diagnostic/therapeutic purposes.
   [**Age over 90 **] y/o F with PMHx of Afib, CAD s/p MI and PVD who presents with
   altered mental status, now with hypoxia.
   .
   # Hypoxia: Patient not in respiratory distress while on BiPap. Patient
   had an episode of acute respiratory distress on [**6-16**]. With some support
   on BiPap, patient breathing more comfortably. ABG while in distress
   showed no increase in pCO2, just her baseline chronic respiratory
   acidosis. CXR showed increased pulmonary edema. EKG showed increase in
   rate of atrial fibrillation. BNP increased.  Lactate increased during
   acute episode. Acute distress likely due to pulmonary edema secondary
   to diastolic dysfunction. Other possibe etiologies include TRALI (too
   late of onset), pneumothroax (r/o on CXR), aspiration PNA or
   pneumonitis, or mucus plugging. After the acute event, started to cover
   for HAP as well as aspiration PNA. Increased lactate correlated to
   increased respiratory distress and respiratory muscle fatigue. The
   patient
s baseline hypoxia which is not entirely responsive to oxygen
   might be due to cardiac (R
L) shunting, atelectasis of right lobe due
   to pleural effusion, or intrapulmonary shunting.
   --continue lasix gtt with goal of -500cc per day.
   --Will d/c vanc/zosyn today since no e/o PNA
   --continue aspiration precautions
   --Will check ABG and see if patient can withstand facemask during day
   and BIPAP overnight
   --Continue IV Metoprolol 15 mg q4hr. On nitrates, metoprolol and CCB at
   home.
   --[**Month (only) **] IV hydral 10q6 to 5q6
   .
   #Right pleural effusion: The patient is likely hyoxemic with an acute
   on chronic resp. acidosis due to her pleural effusion. The
   desaturations seems positional, so likely due to the pleural effusions.
   The patient also has underlying pulmonary hypertension, possibly caused
   by chronic hypoxia due to pleural effusion. WBC WNL and afebrile, so
   infection with a parapneumonic effusion less likely. PE r/o with CTA.
   Also pt
s INR has recently been >1.5 so no [**Female First Name (un) 217**] due to risk for
   hemothorax.
   - consider thoracentesis for therapy and diagnostic purposes.
   - Obtain Echo records from [**Hospital1 1031**] to determine the chronicity of pulmonary
   hypertension.
   - strict aspiration precautions
   .
   #  Altered Mental Status: Patient seems to be at her baseline (AOx2),
   as per HCP. The patient has a postive U/A and urine culture growing
   Klebsiella. Infection is the likely etiology of her AMS change. The
   patient has waxing/[**Doctor Last Name 533**] mental status changes, likely due to UTI.
   Initially, sudden onset also concerning for CVA, given her past
   history. Her CT of the head could not r/o any acute infarcts. The
   patient has no seizure history, so unlikely a seizure. A CTA r/o PE.
   Hypercarbia also possible given desats, but ABG has stable acute on
   chronic respiratory failure.  Etiology unclear but history of
   hyperacute change in mental status was initially concerning for seizure
   or acute stroke. Initially, the patient had pinpoint pupils, however,
   narcane for possible opiod toxicity had no effect. TSH, RPR, Vit B12,
   Folate WNL.
   - continue to treat UTI
   - f/u blood cx
   - avoid any sedating meds
   - D/C vanc/zosyn today since no e/o PNA, will resume cipro for UTI
   .
   # UTI: Pt. grew Klebsiella in urine. Has sensitivities. Repeat UCx neg.
   - D/C vanc/zosyn today since no e/o PNA, will resume cipro. Abx course
   started on [**6-14**] for a total of 10 days.
   .
   #Diastolic HF: EF 65-70% with no LVH. Has had episodes of flash
   pulmonary edema. On nitrates, metoprolol and CCB at home.
   - Manage HTN.
   - Lasix gtt
   - Obtain old echo records
   .
   # AFib: Pt with history of afib though currently paced.  Difficult to
   interpret EKG changes given V-paced rhythm.  Cardiac enzymes negative
   so far.
   - Continue IV metoprolol
   - holding on anticoagulation for now given her recently elevated INR
   and poss need for [**Female First Name (un) 217**].
   .
   #Pulm HTN: New onset pulm HTN since [**Month (only) **]? In [**Hospital1 1031**] D/C summary, there
   was no mention of Pulm HTN. It
s possibly due to chronic hypoxia [**12-19**]
   large pleural effusion on right. Other etiologies like idiopathic (too
   old for onset), PE (ruled out with CTA), and HIV unlikely.
   - Continue O2 requirement
   - Will not pursue medical therapy at this time.
   # Increased INR: Likely on Coumadin for A.fib
   - Would like to get up to date med list
   # Chronic renal failure: Cr: 1.4. Low UOP.
   -- Continue to trend creatinine
   -- Lasix gtt
   -- renally dose medications.
   ICU Care
   Nutrition: will advance to full liqs today. Replete electrolytes as
   needed.
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2102-6-13**] 01:09 PM
   Arterial Line - [**2102-6-16**] 11:59 AM
   20 Gauge - [**2102-6-16**] 12:00 PM
   Prophylaxis:
   DVT: boots, Heparin SC
   Stress ulcer: Famotidine IV
   VAP:
   Comments:
   Communication:  Comments: Need to speak with patient via russian
   interpreter
   Grand Niece & HCP-- [**Name (NI) 9101**] [**Telephone/Fax (1) 9102**] cell [**Telephone/Fax (1) 9103**]
   [**Female First Name (un) 9104**] Daughter & 2nd HCP-- [**Telephone/Fax (1) 9105**]
   NH-->[**Telephone/Fax (1) 4918**]
   Code status: Full code, confirmed, will rediscuss goals of care and DNR
   today with family
   Disposition: pending improvement in hypoxia.

2102-06-19 11:24:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, pleural effusion, respiratory
   distress, pulmonary hypertension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient's respiratory status and oxygenation improving with lasix. Had
   been on continuous infusion through the weekend; stopped yesterday
   afternoon. Fluid status even yesterday.
   Creat is rising.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-6-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2102-6-18**] 12:00 PM
   Famotidine (Pepcid) - [**2102-6-18**] 04:00 PM
   Metoprolol - [**2102-6-18**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-6-19**] 12:00 AM
   Other medications:
   heparin sc, cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-19**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.5
   HR: 73 (71 - 91) bpm
   BP: 106/45(67) {106/45(4) - 170/90(116)} mmHg
   RR: 22 (17 - 25) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
   Wgt (current): 52.5 kg (admission): 57.8 kg
                  Total In:
                                                                    993 mL
                                                                    100 mL
   PO:
                  100 mL
   TF:
   IVF:
                                                                    993 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    225 mL
   Urine:
                                                                    935 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     58 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: 7.47/43/99.[**Numeric Identifier 126**]/31/6
   PaO2 / FiO2: 165
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , Dullness :
   Dullness left base greater than right base), (Breath Sounds: No(t)
   Clear : , Crackles : Right anterior chest, No(t) Bronchial: , No(t)
   Wheezes : , Diminished: Left base greater than right, No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): Not able to assess with language
   barrier, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   11.9 g/dL
   183 K/uL
   139 mg/dL
   1.8 mg/dL
   31 mEq/L
   3.2 mEq/L
   46 mg/dL
   104 mEq/L
   148 mEq/L
   37.2 %
   9.1 K/uL
        [image002.jpg]
                             [**2102-6-17**]  03:54 AM
                             [**2102-6-17**]  12:24 PM
                             [**2102-6-18**]  03:57 AM
                             [**2102-6-18**]  04:10 AM
                             [**2102-6-18**]  09:12 AM
                             [**2102-6-18**]  04:02 PM
                             [**2102-6-18**]  08:03 PM
                             [**2102-6-18**]  09:10 PM
                             [**2102-6-18**]  11:32 PM
                             [**2102-6-19**]  04:24 AM
   WBC
   10.5
   9.1
   Hct
   38.5
   37.2
   Plt
   161
   183
   Cr
   1.5
   1.6
   1.8
   TCO2
   33
   36
   32
   33
   33
   34
   32
   Glucose
   142
   190
   139
   Other labs: PT / PTT / INR:14.3/26.8/1.2, CK / CKMB /
   Troponin-T:53/4/0.03, Differential-Neuts:87.5 %, Lymph:6.3 %, Mono:3.9
   %, Eos:2.0 %, Lactic Acid:1.8 mmol/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.3 mg/dL
   Imaging: CXR: bilateral pleural effusions, right greater than left.
   Possible retrocardiac density. No significant change from prior film.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   HYPERNATREMIA
   PLEURAL EFFUSION
   AFIB
   PULMONARY HYPERTENSION
   ACUTE AND CHRONIC RENAL FAILURE
   Respiratory status and oxygenation improving with diuresis. Will reduce
   supplemental oxygen today. Pleural effusions unchanged on Chest
   radiograph; likely related to fluid overload and may take several days
   to see improvement. Consider therapeutic thoracentesis on right.
   Has been hemodynamically stable.  Antibiotics continue for presumed
   urinary tract infection.
   Remains in chronic afib; ventricular rate stable.
   Serum sodium elevated, likely due to duresis. Needs free water
   repletion. Potassium repletion also needed following diuresis.
   Especially to counter developing metabolic alkalosis.
   Creatinine acute elevated above baseline abnormal value consistent with
   acute renal failure, likely due to pre-renal conditions superimposed on
   her chronic renal failure.
   ICU Care
   Nutrition: oral thickened
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-6-16**] 11:59 AM
   20 Gauge - [**2102-6-18**] 02:49 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-06-20 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --not enough fluid visualized on ultrasound to perform thoracentesis
   --diet advanced to pureed with soft dysphagia per nutrition recs
   --PaO2 low but 99 peripheral O2 sats however add on to gas sat was 84
   --had wheezing, tachycardia and HTN overnight which improved with nebs,
   nitropaste and lasix 40 IV.  SBP 169
 134.  UOP 365cc since Lasix
   given.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-6-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2102-6-19**] 06:00 PM
   Heparin Sodium - [**2102-6-19**] 11:52 PM
   Furosemide (Lasix) - [**2102-6-20**] 12:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-20**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 85 (71 - 88) bpm
   BP: 159/71(106) {106/45(67) - 169/75(110)} mmHg
   RR: 24 (19 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 50.3 kg (admission): 57.8 kg
             Total In:
                                                                  1,675 mL
                                                                    169 mL
   PO:
                                                                    600 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,075 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                    545 mL
                                                                    365 mL
   Urine:
                                                                    545 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,130 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: High flow neb facemask and nasal canula @ 4L
   SpO2: 98%
   ABG: 7.47/46/59/30/8
   PaO2 / FiO2: 118
   Physical Examination
   General: face mask on. Patient in restraints, speaking and making hand
   gestures.
   Neck: supple, JVP not elevated, no LAD
   Lungs: Poor air entry. Bronchial breath sounds over right posterior
   field.
   CV: Irregular rate. Normal rhythm., normal S2, no m/r/g
   Abdomen: soft, NT/ND, bowel sounds present, no rebound or guarding
   Ext: Warm, no clubbing or edema
   Neuro: weak gag, withdraws to sternal rub.
   Labs / Radiology
   184 K/uL
   12.0 g/dL
   152 mg/dL
   1.6 mg/dL
   30 mEq/L
   3.6 mEq/L
   48 mg/dL
   101 mEq/L
   144 mEq/L
   36.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2102-6-18**]  04:02 PM
                             [**2102-6-18**]  08:03 PM
                             [**2102-6-18**]  09:10 PM
                             [**2102-6-18**]  11:32 PM
                             [**2102-6-19**]  04:24 AM
                             [**2102-6-19**]  02:13 PM
                             [**2102-6-19**]  02:32 PM
                             [**2102-6-20**]  12:59 AM
                             [**2102-6-20**]  04:34 AM
                             [**2102-6-20**]  05:17 AM
   WBC
   9.1
   8.0
   Hct
   37.2
   36.7
   Plt
   183
   184
   Cr
   1.6
   1.8
   1.7
   1.6
   TCO2
   33
   34
   32
   33
   34
   34
   Glucose
   190
   139
   152
   Other labs: PT / PTT / INR:14.3/26.8/1.2, CK / CKMB /
   Troponin-T:53/4/0.03, Differential-Neuts:87.5 %, Lymph:6.3 %, Mono:3.9
   %, Eos:2.0 %, Lactic Acid:1.6 mmol/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.9 mg/dL
   BCx
 pending
   CXR
 right effusion unchanged.  increased hazy opacity in left base
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   [**Age over 90 **] y/o F with PMHx of Afib, CAD s/p MI and PVD who presents with
   altered mental status thought to be due to UTI, admitted for hypoxia
   with finding of right pleural effusion
   .
   # Hypoxia: Patient had episode of respiratory distress, wheezing, and
   tachycardia overnight which responded to nebs, nitropaste, and lasix.
   Peripheral O2 sat was 99, but add on blood gas saturation returned at
   84.   Patient also had an episode of acute respiratory distress on [**6-16**]
   for which BiPap was started.  With support on BiPap, patient breathing
   more comfortably. ABG while in distress showed no increase in pCO2,
   just her baseline chronic respiratory acidosis. CXR showed increased
   pulmonary edema. EKG showed increase in rate of atrial fibrillation.
   BNP increased.  Lactate increased during acute episode. Acute distress
   likely due to pulmonary edema secondary to diastolic dysfunction. Other
   possibe etiologies include TRALI (too late of onset), pneumothroax (r/o
   on CXR), aspiration PNA or pneumonitis, or mucus plugging. After the
   acute event, started to cover for HAP as well as aspiration PNA.
   Increased lactate correlated to increased respiratory distress and
   respiratory muscle fatigue. The patient
s baseline hypoxia which is not
   entirely responsive to oxygen might be due to cardiac (R
L) shunting,
   atelectasis of right lobe due to pleural effusion, or intrapulmonary
   shunting.
   --restart lasix, keep at one liter negative today
   --continue aspiration precautions
   --check ABG  to assess oxygenation
 facemask during day, BIPAP at
   night
   --continue IV Metoprolol 15 mg q4hr
   --restart home Imdur
   --nebs PRN
   --pulmonary toilet
   .
   #Right pleural effusion: The patient is likely hypoxemic with an acute
   on chronic resp acidosis due to her pleural effusion. The desaturations
   seems positional, so likely due to the pleural effusions. The patient
   also has underlying pulmonary hypertension, possibly caused by chronic
   hypoxia due to pleural effusion. WBC WNL and afebrile, so infection
   with a parapneumonic effusion less likely. PE r/o with CTA.  Ultrasound
   performed yesterday showed not enough fluid to tap.
   - Obtain Echo records from [**Hospital1 1031**] to determine the chronicity of pulmonary
   hypertension.
   .
   #  Altered Mental Status: Patient seems to be at her baseline (AOx2),
   as per HCP. The patient had a postive U/A and urine culture growing
   Klebsiella. Infection is the likely etiology of her AMS change. The
   patient has waxing/[**Doctor Last Name 533**] mental status changes, likely due to UTI.
   Initially, sudden onset also concerning for CVA, given her past
   history. Her CT of the head could not r/o any acute infarcts. The
   patient has no seizure history, so unlikely a seizure. A CTA r/o PE.
   Hypercarbia also possible given desats, but ABG has stable acute on
   chronic respiratory failure.  Etiology unclear but history of
   hyperacute change in mental status was initially concerning for seizure
   or acute stroke. Initially, the patient had pinpoint pupils, however,
   narcane for possible opiod toxicity had no effect. TSH, RPR, Vit B12,
   Folate WNL.
   - continue cipro, started [**6-14**] (day 7 of 10 day treatment)
   - f/u blood cx
   - avoid sedating meds
   .
   # UTI: Pt. grew Klebsiella in urine. Has sensitivities. Repeat UCx neg.
   -  continue cipro. Abx course started on [**6-14**] for a total of 10 days.
   .
   #Diastolic HF: EF 65-70% with no LVH. Has had episodes of flash
   pulmonary edema. On nitrates, metoprolol and CCB at home.
   - Manage HTN
   - check cardiac markers given episode of respiratory distress last
   night
   .
   # AFib: Pt with history of afib though currently paced.  Difficult to
   interpret EKG changes given V-paced rhythm.  Cardiac enzymes negative
   so far.
   - Continue IV metoprolol
   - restart anticoagulation today if no procedures planned
   .
   # Pulm HTN: New onset pulm HTN since [**Month (only) **]? In [**Hospital1 1031**] D/C summary,
   there was no mention of Pulm HTN. It
s possibly due to chronic hypoxia
   [**12-19**] large pleural effusion on right. Other etiologies like idiopathic
   (too old for onset), PE (ruled out with CTA), and HIV unlikely.  Will
   not pursue medical therapy at this time other than BP control.
   - Continue O2 requirement
   # Increased INR: INR down to 1.2 today
   - restart anticoagluation if no other procedures planned
   # Chronic renal failure: Cr: 1.6 today, improved from 1.8 yesterday
   -- Continue to trend creatinine
   -- monitor ins and outs
   -- renally dose medications
   # Hypokalemia
 repleted yesterday, 3.6 today
   - replete K today since will be restarting lasix
   - monitor electrolytes
   # Nutrition
   - diet advanced to pureed diet with soft dysphagia as per nutrition
   recs
   - keep fluid balance 1 liter negative
   # Case Management
 patient will complete 10 day course of cipro soon,
   mental status at baseline, but will likely have to leave on O2
   ICU Care
   Nutrition: pureed diet with soft dysphagia
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-6-16**] 11:59 AM
   20 Gauge - [**2102-6-18**] 02:49 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-06-20 11:32:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, CHF, pulmonary hypertension,
   pleural effusions, UTI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Last night developed wheezing, tachycardia, hypertension. Treated with
   bronchodilators, lasix, nitropaste with improvement.
   Diet advanced yesterday.
   Mental status appers at/near baseline; patient refusing some of her
   meds.
   Afebrile
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-6-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2102-6-20**] 12:52 AM
   Famotidine (Pepcid) - [**2102-6-20**] 08:00 AM
   Heparin Sodium - [**2102-6-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-20**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 72 (71 - 86) bpm
   BP: 153/67(99) {115/52(75) - 169/75(110)} mmHg
   RR: 21 (19 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Wgt (current): 50.3 kg (admission): 57.8 kg
             Total In:
                                                                  1,675 mL
                                                                    301 mL
   PO:
                                                                    600 mL
                                                                    140 mL
   TF:
   IVF:
                                                                  1,075 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                    545 mL
                                                                    465 mL
   Urine:
                                                                    545 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,130 mL
                                                                   -164 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: 7.47/46/59/30/8
   PaO2 / FiO2: 118
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Mild
   respiratory distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic),
   I-II/VI systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes : Expiratory
   diffusely, I/E=[**11-18**], No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: ), Recruiting expiratory accessory muscles
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): Unable to assess with language barrier,
   Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   12.0 g/dL
   184 K/uL
   152 mg/dL
   1.6 mg/dL
   30 mEq/L
   3.6 mEq/L
   48 mg/dL
   101 mEq/L
   144 mEq/L
   36.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2102-6-18**]  04:02 PM
                             [**2102-6-18**]  08:03 PM
                             [**2102-6-18**]  09:10 PM
                             [**2102-6-18**]  11:32 PM
                             [**2102-6-19**]  04:24 AM
                             [**2102-6-19**]  02:13 PM
                             [**2102-6-19**]  02:32 PM
                             [**2102-6-20**]  12:59 AM
                             [**2102-6-20**]  04:34 AM
                             [**2102-6-20**]  05:17 AM
   WBC
   9.1
   8.0
   Hct
   37.2
   36.7
   Plt
   183
   184
   Cr
   1.6
   1.8
   1.7
   1.6
   TCO2
   33
   34
   32
   33
   34
   34
   Glucose
   190
   139
   152
   Other labs: PT / PTT / INR:14.3/26.8/1.2, CK / CKMB /
   Troponin-T:53/4/0.03, Differential-Neuts:87.5 %, Lymph:6.3 %, Mono:3.9
   %, Eos:2.0 %, Lactic Acid:1.6 mmol/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Congestive Heart Failure, Acute and Chronic, Diastolic
   Chronic Renal Failure
   =========================
   Mental status appears near baseline. Treatment continues for UTI.
   Episode last night consistent with episode of acute ischemia and/or
   CHF. With hx of diastolic dysfunction, she has propensity to go into
   CHF with tachycardia or increase in BP, which occurs with her
   agitation. By exam now, still may be in CHF. Will give additional
   lasix. Try to get better control of BP - aim for systolic 120-130.
   Continue bronchodilator.
   Creat stable to slightly better. Electrolytes acceptable.
   ICU Care
   Nutrition: oral
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-6-16**] 11:59 AM
   20 Gauge - [**2102-6-18**] 02:49 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments: VAP bundle Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2102-06-21 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2102-6-20**] 08:45 PM
   - wheezy, desatted to 70s, improved on nebs, nitropaste, lasix.  no
   changes on EKG.
   - bubble study in the AM to assess for PFO or other sources of shunting
   - scheduled for IR guided thoracentesis
   - ask radiology to review CTA for AV shunts tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-6-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2102-6-20**] 08:00 AM
   Heparin Sodium - [**2102-6-20**] 03:28 PM
   Coumadin (Warfarin) - [**2102-6-20**] 04:39 PM
   Metoprolol - [**2102-6-21**] 05:20 AM
   Hydralazine - [**2102-6-21**] 05:30 AM
   Furosemide (Lasix) - [**2102-6-21**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-21**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 80 (71 - 90) bpm
   BP: 169/78(115) {131/63(89) - 242/165(294)} mmHg
   RR: 27 (18 - 36) insp/min
   SpO2: 85%
   Heart rhythm: AV Paced
   Wgt (current): 50.3 kg (admission): 57.8 kg
                  Total In:
                                                                  1,290 mL
                  PO:
                                                                    500 mL
                  TF:
   IVF:
                                                                    790 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    320 mL
   Urine:
                                                                  1,605 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -315 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 85%
   ABG: 7.45/50/61/32/8
   PaO2 / FiO2: 64
   Physical Examination
   General: face mask on. Patient in restraints, speaking and making hand
   gestures.
   Neck: supple, JVP not elevated, no LAD
   Lungs: Poor air entry. Bronchial breath sounds over right posterior
   field.
   CV: Irregular rate. S1S2, no m/r/g
   Abdomen: soft, NT/ND, bowel sounds present, no rebound or guarding
   Ext: Warm, no clubbing or edema
   Neuro: weak gag, withdraws to sternal rub.
   Labs / Radiology
   185 K/uL
   12.1 g/dL
   169 mg/dL
   1.9 mg/dL
   32 mEq/L
   4.2 mEq/L
   45 mg/dL
   105 mEq/L
   146 mEq/L
   37.5 %
   8.4 K/uL
        [image002.jpg]
                             [**2102-6-19**]  02:32 PM
                             [**2102-6-20**]  12:59 AM
                             [**2102-6-20**]  04:34 AM
                             [**2102-6-20**]  05:17 AM
                             [**2102-6-20**]  11:46 AM
                             [**2102-6-20**]  03:00 PM
                             [**2102-6-20**]  03:09 PM
                             [**2102-6-20**]  08:56 PM
                             [**2102-6-21**]  01:10 AM
                             [**2102-6-21**]  03:53 AM
   WBC
   8.0
   8.4
   Hct
   36.7
   37.5
   Plt
   184
   185
   Cr
   1.6
   1.6
   1.9
   TropT
   0.02
   0.01
   TCO2
   33
   34
   34
   34
   35
   34
   36
   Glucose
   152
   172
   169
   Other labs: PT / PTT / INR:13.6/25.1/1.2, CK / CKMB /
   Troponin-T:98/5/0.01, Differential-Neuts:87.5 %, Lymph:6.3 %, Mono:3.9
   %, Eos:2.0 %, Lactic Acid:1.7 mmol/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.5 mg/dL
   BCx
 pending
   CXR
 increased haziness in left lung, right pleural effusion unchanged
   Assessment and Plan
 MALNUTRITION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   [**Age over 90 **] y/o F with PMHx of Afib, CAD s/p MI and PVD who presents with
   altered mental status thought to be due to UTI, admitted for hypoxia
   with finding of right pleural effusion
   .
   # Hypoxia: Patient had another episode of respiratory distress,
   wheezing, and tachycardia overnight which responded to nebs,
   nitropaste, and lasix.  Latest PaO2 61.  Acute distress likely due to
   pulmonary edema secondary to diastolic dysfunction. Other possibe
   etiologies include TRALI (too late of onset), pneumothroax (r/o on
   CXR), aspiration PNA or pneumonitis, or mucus plugging. After the acute
   event, started to cover for HAP as well as aspiration PNA. Increased
   lactate correlated to increased respiratory distress and respiratory
   muscle fatigue. The patient
s baseline hypoxia which is not entirely
   responsive to oxygen might be due to cardiac (R
L) shunting,
   atelectasis of right lobe due to pleural effusion, or intrapulmonary
   shunting.
   --restart lasix, keep at one liter negative today
   --continue aspiration precautions
   --continue to check ABG to assess oxygenation
   --continue IV Metoprolol 15 mg q4hr
   --restart home Imdur
   --nebs PRN
   --pulmonary toilet
   --bubble study today
   --review CTA for AV shunts
   .
   #Right pleural effusion: The patient is likely hypoxemic with an acute
   on chronic resp acidosis due to her pleural effusion. The desaturations
   seems positional, so likely due to the pleural effusions. The patient
   also has underlying pulmonary hypertension, possibly caused by chronic
   hypoxia due to pleural effusion. WBC WNL and afebrile, so infection
   with a parapneumonic effusion less likely. PE r/o with CTA.  Ultrasound
   performed yesterday showed not enough fluid to tap.
   - consider IR guided thoracentesis
   - Obtain Echo records from [**Hospital1 1031**] to determine the chronicity of pulmonary
   hypertension.
   .
   #  Altered Mental Status: Patient seems to be at her baseline (AOx2),
   as per HCP. The patient had a postive U/A and urine culture growing
   Klebsiella. Infection is the likely etiology of her AMS change. The
   patient has waxing/[**Doctor Last Name 533**] mental status changes, likely due to UTI.
   Initially, sudden onset also concerning for CVA, given her past
   history. Her CT of the head could not r/o any acute infarcts. The
   patient has no seizure history, so unlikely a seizure. A CTA r/o PE.
   Hypercarbia also possible given desats, but ABG has stable acute on
   chronic respiratory failure.  Etiology unclear but history of
   hyperacute change in mental status was initially concerning for seizure
   or acute stroke. Initially, the patient had pinpoint pupils, however,
   narcane for possible opiod toxicity had no effect. TSH, RPR, Vit B12,
   Folate WNL.
   - continue cipro, started [**6-14**] (day 8 of 10 day treatment)
   - f/u blood cx
   - avoid sedating meds
   .
   # UTI: Pt. grew Klebsiella in urine. Has sensitivities. Repeat UCx neg.
   -  continue cipro. Abx course started on [**6-14**] for a total of 10 days.
   .
   #Diastolic HF: EF 65-70% with no LVH. Has had episodes of flash
   pulmonary edema. On nitrates, metoprolol and CCB at home.
   - continue to manage HTN
   - check cardiac markers given episode of respiratory distress last
   night
   .
   # AFib: Pt with history of afib though currently paced.  Difficult to
   interpret EKG changes given V-paced rhythm.  Cardiac enzymes negative
   so far.
   - continue IV metoprolol
   - restart anticoagulation today if no procedures planned
   .
   # Pulm HTN: New onset pulm HTN since [**Month (only) **]? In [**Hospital1 1031**] D/C summary,
   there was no mention of Pulm HTN. It
s possibly due to chronic hypoxia
   [**12-19**] large pleural effusion on right. Other etiologies like idiopathic
   (too old for onset), PE (ruled out with CTA), and HIV unlikely.  Will
   not pursue medical therapy at this time other than BP control.
   - Continue O2 requirement
   - manage HTN
   # Increased INR: INR down to 1.2 today
   - continue warfarin 2 mg
   - monitor INR
   # Chronic renal failure: Cr: 1.9 today
   -- continue to trend creatinine, would continue to give lasix
   -- monitor ins and outs
   -- renally dose medications
   # Hypokalemia
 repleted yesterday, 4.2 today
   - monitor electrolytes
   # Nutrition
   - pureed diet with soft dysphagia
   - keep fluid balance 1 liter negative
   # Case Management
 patient will complete 10 day course of cipro soon,
   mental status at baseline, but will likely have to leave on O2
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-6-16**] 11:59 AM
   20 Gauge - [**2102-6-18**] 02:49 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-06-21 10:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, hypoxemia, diastolic CHF, altered
   mental status, afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Large O2 requirements persist; attempts to diurese - only 300 cc
   negative for  the day, but creatinine is rising.
   24 Hour Events:
 EKG - At [**2102-6-20**] 08:45 PM
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2102-6-20**] 04:39 PM
   Metoprolol - [**2102-6-21**] 05:20 AM
   Furosemide (Lasix) - [**2102-6-21**] 05:30 AM
   Hydralazine - [**2102-6-21**] 05:30 AM
   Famotidine (Pepcid) - [**2102-6-21**] 07:51 AM
   Heparin Sodium - [**2102-6-21**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-21**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 91 (71 - 91) bpm
   BP: 159/80(112) {131/63(89) - 242/165(294)} mmHg
   RR: 23 (18 - 36) insp/min
   SpO2: 91%
   Heart rhythm: AV Paced
   Wgt (current): 50.3 kg (admission): 57.8 kg
             Total In:
                                                                  1,290 mL
                                                                     50 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    790 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                  1,070 mL
   Urine:
                                                                  1,605 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -315 mL
                                                                 -1,020 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: 7.48/45/62/32/8
   PaO2 / FiO2: 65
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Frail
   appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Dullness : [**1-18**] on the right, [**12-20**] on the left), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , Diminished: right worse than left, No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess because of language barrier,
   Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   12.1 g/dL
   185 K/uL
   169 mg/dL
   1.9 mg/dL
   32 mEq/L
   4.2 mEq/L
   45 mg/dL
   105 mEq/L
   146 mEq/L
   37.5 %
   8.4 K/uL
        [image002.jpg]
                             [**2102-6-20**]  12:59 AM
                             [**2102-6-20**]  04:34 AM
                             [**2102-6-20**]  05:17 AM
                             [**2102-6-20**]  11:46 AM
                             [**2102-6-20**]  03:00 PM
                             [**2102-6-20**]  03:09 PM
                             [**2102-6-20**]  08:56 PM
                             [**2102-6-21**]  01:10 AM
                             [**2102-6-21**]  03:53 AM
                             [**2102-6-21**]  08:19 AM
   WBC
   8.0
   8.4
   Hct
   36.7
   37.5
   Plt
   184
   185
   Cr
   1.6
   1.6
   1.9
   TropT
   0.02
   0.01
   TCO2
   34
   34
   34
   35
   34
   36
   34
   Glucose
   152
   172
   169
   Other labs: PT / PTT / INR:13.6/25.1/1.2, CK / CKMB /
   Troponin-T:98/5/0.01, Differential-Neuts:87.5 %, Lymph:6.3 %, Mono:3.9
   %, Eos:2.0 %, Lactic Acid:1.7 mmol/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.5 mg/dL
   Imaging: CXR: increasing bilateral haziness consistent with worsening
   pleural effusions
   Assessment and Plan
 MALNUTRITION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ACUTE RENAL FAILURE
   HYPERNATREMIA
   =============================
   Hypoxemia persists. By CXR and exam, the pleural effusions appear to
   have worsened significantly despite diuresis leading to worsening renal
   failure. Will try to do therapeutic taps of effusions today. Maintain
   fluid balance even with worsening renal function. Electrolytes
   acceptable.
   Need to continue to get better control of blood pressure for diastolic
   CHF and to try to improve cardiac output.
   Serum sodium elevated; needs free water replacement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-6-16**] 11:59 AM
   20 Gauge - [**2102-6-18**] 02:49 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments: VAP protocol not indicated.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-06-22 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2102-6-21**] 01:16 PM
   - R thoracentesis by IP
 removed 1.2L serosanguinous, based on Light's
   critera, looks like transudate. Cytology pending
   - Family meeting with Grand niece and social work discussing goal of
   care.  Granddaughter request transfer to [**Hospital1 1031**] ICU
   - Consent to obtain [**Hospital1 1031**] Echo report - signed record release form in
   front of chart. [**Hospital1 1031**] phone number on sheet.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-6-21**] 10:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2102-6-21**] 07:51 AM
   Heparin Sodium - [**2102-6-21**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-6-22**] 12:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-22**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.7
C (96.2
   HR: 77 (74 - 96) bpm
   BP: 98/57(75) {86/42(56) - 182/102(250)} mmHg
   RR: 17 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Wgt (current): 50.3 kg (admission): 57.8 kg
                  Total In:
                                                                    650 mL
                  PO:
                                                                    400 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                    160 mL
   Urine:
                                                                  2,200 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,750 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula. 6L of O2
   SpO2: 100%
   ABG: 7.45/39/196/32/3
   PaO2 / FiO2: 392
   Physical Examination
   General: nasal cannula. Patient in restraints, making hand gestures.
   Neck: supple, no JVP, no LAD
   Lungs: Diffuse crackles worse towards the bases.
   CV: Irregular rate. S1S2, no m/r/g
   Abdomen: soft, NT/ND, bowel sounds present, no rebound or guarding
   Ext: Warm, no clubbing or edema
   Neuro: withdraws to sternal rub.
   Labs / Radiology
   195 K/uL
   11.9 g/dL
   209 mg/dL
   1.8 mg/dL
   32 mEq/L
   3.8 mEq/L
   51 mg/dL
   105 mEq/L
   147 mEq/L
   37.3 %
   10.4 K/uL
        [image002.jpg]
                             [**2102-6-20**]  11:46 AM
                             [**2102-6-20**]  03:00 PM
                             [**2102-6-20**]  03:09 PM
                             [**2102-6-20**]  08:56 PM
                             [**2102-6-21**]  01:10 AM
                             [**2102-6-21**]  03:53 AM
                             [**2102-6-21**]  08:19 AM
                             [**2102-6-21**]  05:08 PM
                             [**2102-6-22**]  03:24 AM
                             [**2102-6-22**]  03:44 AM
   WBC
   8.4
   10.4
   Hct
   37.5
   37.3
   Plt
   185
   195
   Cr
   1.6
   1.9
   1.8
   TropT
   0.01
   TCO2
   34
   35
   34
   36
   34
   37
   28
   Glucose
   172
   169
   209
   Other labs: PT / PTT / INR:13.7/25.0/1.2, CK / CKMB /
   Troponin-T:98/5/0.01, Differential-Neuts:87.5 %, Lymph:6.3 %, Mono:3.9
   %, Eos:2.0 %, Lactic Acid:2.4 mmol/L, Albumin:2.8 g/dL, LDH:293 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   BCx - pending
   Pleural fluid (prelim)
 gram stain: 3+ polymorphonuclear lymphocytes.
   No organisms seen.  Fluid culture and anaerobic culture pending.
   CXR - pending
   Assessment and Plan
 INEFFECTIVE COPING
 MALNUTRITION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   [**Age over 90 **] y/o F with PMHx of Afib, CAD s/p MI and PVD who presents with
   altered mental status thought to be due to UTI now subjectively
   resolved, admitted for hypoxia with finding of right pleural effusion
   .
   # Hypoxia: Patient received thoracentesis yesterday with 1.2 L of
   serosanguinous fluid removed.  Pt
s PaO2 improved to 196.  Currently
   saturating well on nasal canula 6L.  Acute respiratory distress likely
   due to the pleural effusion.  Pt saturating well but still requiring
   supplemental O2.  It
s possible that patient
s baseline hypoxia might
   be due to cardiac (R
L) shunting or intrapulmonary shunting.   Prior
   CTA discussed with radiology: pt has little lung parenchyma to
   evaluate, but no large AVMs seen on [**6-13**] CTA, main pulm trunk is
   enlarged which may be evidence of pulmonary HTN, [**Male First Name (un) **]
t think it is
   worthwhile to rescan.
   --continue aspiration precautions
   --wean down O2 as tolerated
   --continue to check ABG to assess oxygenation, if saturating well under
   3L O2, can consider calling out
   --continue IV Metoprolol 15 mg q4hr
   --continue Imdur
   --nebs PRN
   --pulmonary toilet
   .
   #Right pleural effusion: 1.2 L of transudative fluid removed yesterday
   with improvement of patient
s oxygenation.
   - Obtain Echo records from [**Hospital1 1031**] to determine the chronicity of pulmonary
   hypertension.
   .
   #  Altered Mental Status: Patient seems to be consistently at her
   baseline (AOx2), as per HCP. The patient had a postive U/A and urine
   culture growing Klebsiella. Infection is the likely etiology of her AMS
   change. The patient has waxing/[**Doctor Last Name 533**] mental status changes, likely due
   to UTI.  Initially, sudden onset also concerning for CVA, given her
   past history. Her CT of the head could not r/o any acute infarcts. The
   patient has no seizure history, so unlikely a seizure. A CTA r/o PE.
   Hypercarbia also possible given desats, but ABG has stable acute on
   chronic respiratory failure.  Etiology unclear but history of
   hyperacute change in mental status was initially concerning for seizure
   or acute stroke.
   - continue cipro, started [**6-14**] (day 9 of 10 day treatment)
   - f/u blood cx
   - avoid sedating meds
   .
   # UTI: Pt. grew Klebsiella in urine. Has sensitivities. Repeat UCx neg.
   -  continue cipro
   .
   #Diastolic HF: EF 65-70% with no LVH. Has had episodes of flash
   pulmonary edema. On nitrates, metoprolol and CCB at home.
   - continue metoprolol
   - continue hydralazine
   - continue imdur
   .
   # AFib: Pt with history of afib though currently paced.  Difficult to
   interpret EKG changes given V-paced rhythm.  Cardiac enzymes negative
   so far.
   - continue metoprolol
   - restart coumadin
   .
   # Pulm HTN: New onset pulm HTN since [**Month (only) **]? In [**Hospital1 1031**] D/C summary,
   there was no mention of Pulm HTN. It
s possibly due to chronic hypoxia
   [**12-19**] large pleural effusion on right. Other etiologies like idiopathic
   (too old for onset), PE (ruled out with CTA), and HIV unlikely.  Will
   not pursue medical therapy at this time other than BP control.
   - obtain [**Hospital1 1031**] records
   - continue O2 requirement
   - manage HTN
   .
   # Increased INR: INR down to 1.2 today
   - continue coumadin
   - monitor INR
   .
   # Chronic renal failure: Cr: 1.8 today
   -- hold lasix
   -- monitor I/O
   -- renally dose medications
   -- continue hydralazine and imdur to decrease afterload
   .
   # Nutrition
 will talk to family about possibility of a feeding tube
   ICU Care
   Nutrition: pureed with soft dysphagia
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-6-16**] 11:59 AM
   20 Gauge - [**2102-6-21**] 04:47 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-06-22 12:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, pleural effusions.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had 1.5 liters of pleural fluid removed yesterday. ABG improved
   through the night with greatly improved oxygenation (now only 6L nasal
   cannula supplementation). Pleural fluid transudative (protein 2.7, LDH
   85).
   Remains afebrile.
   Blood pressure under better control with hydralazine.
   24 Hour Events:
 THORACENTESIS - At [**2102-6-21**] 01:16 PM
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-6-22**] 08:08 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2102-6-21**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-6-22**] 08:08 AM
   Other medications:
   famotidine, albuterol, hydralazine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-22**] 12:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 83 (74 - 96) bpm
   BP: 117/55(71) {86/42(56) - 182/102(250)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Wgt (current): 50.3 kg (admission): 57.8 kg
             Total In:
                                                                    650 mL
                                                                    260 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                    250 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                    205 mL
   Urine:
                                                                  2,200 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,750 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.45/39/196/32/3
   PaO2 / FiO2: 392
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Coarse scattered, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Tactile stimuli, Oriented (to): Not able to assess - language,
   Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   11.9 g/dL
   195 K/uL
   209 mg/dL
   1.8 mg/dL
   32 mEq/L
   3.8 mEq/L
   51 mg/dL
   105 mEq/L
   147 mEq/L
   37.3 %
   10.4 K/uL
        [image002.jpg]
                             [**2102-6-20**]  11:46 AM
                             [**2102-6-20**]  03:00 PM
                             [**2102-6-20**]  03:09 PM
                             [**2102-6-20**]  08:56 PM
                             [**2102-6-21**]  01:10 AM
                             [**2102-6-21**]  03:53 AM
                             [**2102-6-21**]  08:19 AM
                             [**2102-6-21**]  05:08 PM
                             [**2102-6-22**]  03:24 AM
                             [**2102-6-22**]  03:44 AM
   WBC
   8.4
   10.4
   Hct
   37.5
   37.3
   Plt
   185
   195
   Cr
   1.6
   1.9
   1.8
   TropT
   0.01
   TCO2
   34
   35
   34
   36
   34
   37
   28
   Glucose
   172
   169
   209
   Other labs: PT / PTT / INR:13.7/25.0/1.2, CK / CKMB /
   Troponin-T:98/5/0.01, Differential-Neuts:87.5 %, Lymph:6.3 %, Mono:3.9
   %, Eos:2.0 %, Lactic Acid:2.4 mmol/L, Albumin:2.8 g/dL, LDH:293 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 MALNUTRITION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ACUTE RENAL FAILURE
   =========================
   Oxygenation improved with removal of pleural fluid on right. Reducing
   nasal oxygen to 3L/min. Keep fluids even today. Creat stable. Per
   family, mental status at baseline. We are having problems getting
   patient to eat sufficienctly; need to address possble gastric tube.
   ICU Care
   Nutrition: thickened
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-6-16**] 11:59 AM
   20 Gauge - [**2102-6-21**] 04:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Not applicable.
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2102-06-23 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Meds transitioned to PO
   -pO2 62 on 5L NC, able to sit in chair looking comfortable, weaned to
   4L NC and is currently stable.
   -Still desaturates to 80s when sedated/sleeping.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-6-22**] 08:08 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-6-22**] 08:08 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-6-23**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36
C (96.8
   HR: 71 (71 - 84) bpm
   BP: 140/59(132) {100/40(61) - 141/70(132)} mmHg
   RR: 18 (17 - 23) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Wgt (current): 52.2 kg (admission): 57.8 kg
                  Total In:
                                                                  1,290 mL
                                                                    100 mL
   PO:
                                                                  1,030 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    175 mL
   Urine:
                                                                    625 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    665 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 95%
   ABG: 7.46/50/62/34/9
   Physical Examination
   General: nasal cannula. Patient in restraints, making hand gestures.
   Neck: supple, no JVP, no LAD
   Lungs: Diffuse crackles worse towards the bases.
   CV: Irregular rate. S1S2, no m/r/g
   Abdomen: soft, NT/ND, bowel sounds present, no rebound or guarding
   Ext: Warm, no clubbing or edema
   Neuro: withdraws to sternal rub.
   Labs / Radiology
   199 K/uL
   11.4 g/dL
   192 mg/dL
   1.5 mg/dL
   34 mEq/L
   3.8 mEq/L
   55 mg/dL
   107 mEq/L
   148 mEq/L
   36.2 %
   8.6 K/uL
        [image002.jpg]
                             [**2102-6-20**]  03:09 PM
                             [**2102-6-20**]  08:56 PM
                             [**2102-6-21**]  01:10 AM
                             [**2102-6-21**]  03:53 AM
                             [**2102-6-21**]  08:19 AM
                             [**2102-6-21**]  05:08 PM
                             [**2102-6-22**]  03:24 AM
                             [**2102-6-22**]  03:44 AM
                             [**2102-6-22**]  03:46 PM
                             [**2102-6-23**]  03:09 AM
   WBC
   8.4
   10.4
   8.6
   Hct
   37.5
   37.3
   36.2
   Plt
   185
   195
   199
   Cr
   1.9
   1.8
   1.5
   TCO2
   35
   34
   36
   34
   37
   28
   37
   Glucose
   169
   209
   192
   Other labs: PT / PTT / INR:14.0/50.9/1.2, CK / CKMB /
   Troponin-T:98/5/0.01, Differential-Neuts:87.5 %, Lymph:6.3 %, Mono:3.9
   %, Eos:2.0 %, Lactic Acid:2.4 mmol/L, Albumin:2.8 g/dL, LDH:293 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   .
   Pleural fluid: 3+ PMNs, no micro-organisms
   .
   MRSA positive
   .
   BCx
 negative (final)
   .
   CXR [**2102-6-23**]:  Compared to CT [**2102-5-17**], decreased R pleural effusion
   with residual small effusion with fluid tracking into minor fissure.
   Moderately large stable L pleural effusion.
   Assessment and Plan
 GAIT, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 INEFFECTIVE COPING
 MALNUTRITION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   .
   [**Age over 90 **] y/o F with PMHx of Afib, CAD s/p MI and PVD who presents with
   altered mental status thought to be due to UTI now subjectively
   resolved, admitted for hypoxia with finding of right pleural effusion
   .
   # Hypoxia: Improving. Most likely due to R pleural effusion as pt
   improved s/p R thoracentesis. Currently saturating well on 4L NC
   although with desaturations into low 80s when sleeping/sedated. This
   may be her baseline but was never detected in past given our setting of
   continuous O2 monitoring.
   --continue aspiration precautions
   --wean down O2 as tolerated
   --continue to check ABG to assess oxygenation
   --nebs PRN
   --pulmonary toilet
   .
   #  Altered Mental Status: Patient seems to be consistently at her
   baseline (AOx2), as per HCP. Now able to sit in chair and is attempting
   to communicate with team and nursing.
   - continue cipro, started [**6-14**] (day 10 of 10 day treatment)
   - avoid sedating meds
   .
   #Diastolic HF: EF 65-70% with no LVH. Has had episodes of flash
   pulmonary edema. On nitrates, metoprolol and CCB at home.
   - continue metoprolol
   - continue hydralazine
   - continue imdur
   .
   # AFib: Pt with history of afib though currently paced.  Difficult to
   interpret EKG changes given V-paced rhythm.  Cardiac enzymes negative
   so far.
   - continue metoprolol
   - restart coumadin if no L thoracentesis will be done
   -monitor INR
   .
   # Pulm HTN: New onset pulm HTN since [**Month (only) **]? In [**Hospital1 1031**] D/C summary,
   there was no mention of Pulm HTN. It
s possibly due to chronic hypoxia
   [**12-19**] large pleural effusion on right or enlarged pulmonary artery trunk.
   Other etiologies like idiopathic (too old for onset), PE (ruled out
   with CTA), and HIV unlikely.  Will not pursue medical therapy at this
   time other than BP control.
   - continue O2
 wean as tolerated
   - manage HTN
   .
   # Chronic renal failure: Cr: 1.5 today
   -- monitor I/O
   -- renally dose medications
   -- continue hydralazine and imdur to decrease afterload
   .
   # Nutrition
 pt eats when family brings food.
   ICU Care
   Nutrition: Regular; pureed Consistency: Pureed (dysphagia); Nectar
   prethickened liquids Supplement: Ensure Plus lunch, dinner breakfast
   and lunch
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-6-16**] 11:59 AM
   20 Gauge - [**2102-6-21**] 04:47 PM
   Prophylaxis:
   DVT: pneumoboots, Heparin SC
   Stress ulcer: famotidine PO
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Rehab or  to [**Hospital1 238**] if able to use O2, monitor INR and
   titrate coumadin, and provide PT